US04613613
Synthesis of α-(o-fluorobenzoylthiomethyl)-β-phenyl-γ-butyrolactone (Compound No. 76) (Ib)
To a solution of 1.2 g of o-fluorobenzoic acid and 1.5 g of α-mercaptomethyl-β-phenyl-γ-butyrolactone in 20 ml of dimethylformamide were added 1.9 ml of diphenylphosphoryl azide (DPPA) and then 1.2 ml of triethylamine under ice-cooling. Then, the mixture was raised to a room temperature and stirred for 18 hours. After completion of the reaciton, the reaction mixture was diluted with 200 ml of ethyl ether, washed with 5% hydrochloric acid, saturated aqueous sodium hydrogencarbonate, and saturated saline, dried over magnesium sulfate and the solvent was then distilled off. The crude product thus obtained was purified by a silica gel column chromatography to give 1.6 g (yield 67%) of the title compound.

reactant | o-fluorobenzoic acid | 1.2 g | FC1=C(C(=O)O)C=CC=C1 | C7H5FO2
reactant | α-mercaptomethyl-β-phenyl-γ-butyrolactone | 1.5 g | SCC1C(=O)OCC1C1=CC=CC=C1 | C11H12O2S
reactant | diphenylphosphoryl azide | 1.9 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl ether | 200 ml | C(C)OCC | C4H10O
product | α-(o-fluorobenzoylthiomethyl)-β-phenyl-γ-butyrolactone | 1.6 g, yield 67% | FC1=C(C(=O)SCC2C(=O)OCC2C2=CC=CC=C2)C=CC=C1 | C18H15FO3S
